US06403601B1
(b) 1-Bromo-3,4-dimethoxynaphthalene
To the solution of 1,2-dimethoxynaphthalene (3.83 g, 20.3 mmol) in THF (100 mL) was added dropwise at 0° C. a solution of NBS (3.62 g, 20.3 mmol) in THF (50 mL). After stirring at 0° C. for 0.5 h, the solvent was removed in vacuo and CCl4 was added. The mixture was filtered and the filtrate was concentrated. Column chromatography yielded the title compound as a yellow oil (3.72 g, 68%). 1H NMR (CDCl3) δ 8.1 (m, 2H), 7.60 (s, 1H), 7.49 (m, 2H), 3.99 (s, 3H) 3.98 (s, 3H); MS m/z 267 (M−H).

reactant | 1,2-dimethoxynaphthalene | 20.3 mmol, 3.83 g | COC1=C(C=CC2=CC=CC=C12)OC | C12H12O2
reactant | NBS | 20.3 mmol, 3.62 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Bromo-3,4-dimethoxynaphthalene | 3.72 g, 68% | BrC1=CC(=C(C2=CC=CC=C12)OC)OC | C12H11BrO2
